US06770662B2
A hexane solution (11.4 ml) of n-butyllithium was dropwise added to a tetrahydrofuran (45 ml) solution of diisopropylamine (2.81 g) at 0° C., followed by stirring for 1 hour to prepare a tetrahydrofuran solution of lithium diisopropylamide. The solution was cooled to −50° C., and a tetrahydrofuran (7.5 ml) solution of 2-chloro-4-trifluoromethylpyridine (2.81 g) was gradually added thereto, followed by stirring at the same temperature for 30 minutes. The solution was cooled to −78° C., and a tetrahydrofuran (37.5 ml) solution of 5-benzyloxy-4-methoxy-2-methylbenzaldehyde (3.97 g) was gradually added thereto, followed by stirring at the same temperature for 1 hour. A saturated aqueous ammonium chloride solution (50 ml) was added thereto, the temperature was raised to room temperature, the mixture was poured into a saturated aqueous sodium bicarbonate solution (50 ml), and extraction with ethyl acetate (150 ml) was carried out twice. The ethyl acetate phase was washed with an aqueous sodium chloride solution (100 ml) and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 6.48 g (yield 96%) of (5-benzyloxy-4-methoxy-2-methylphenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol as a red-yellow oily substance, and its structure was confirmed by nuclear magnetic resonance spectrum.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 2.81 g | C(C)(C)NC(C)C | C6H15N
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-4-trifluoromethylpyridine | 2.81 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | 5-benzyloxy-4-methoxy-2-methylbenzaldehyde | 3.97 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C=O)C1)C)OC | C16H16O3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 37.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | hexane | 11.4 ml | CCCCCC | C6H14
product | (5-benzyloxy-4-methoxy-2-methylphenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol | 6.48 g, yield 96% | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C(O)C=1C(=NC=CC1C(F)(F)F)Cl)C)OC | C22H19ClF3NO3
